US04220772
2 G. of 2-methoxyethyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate-3-oxide are dissolved at 0° C. in 15 ml. of chloroform and 3.7 ml. of triethylamine. The cold stirred mixture is treated with 3.2 ml. of 20% phosgene in toluene. The mixture is then stirred for 4 hours, acidified with hydrochloric acid, washed with water and extracted with methylene chloride. The organic phase is dried over magnesium sulfate and the solvent is distilled off under reduced pressure. The residue obtained is crystallized from methylene chloride and ether, there being obtained pure 2-methoxyethyl 5-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-pyrimidine-7-carbamate having a melting point of 195°-196° C.

reactant | 2-methoxyethyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate-3-oxide | NC1=NC(=CC(=[N+]1[O-])NC(=O)OCCOC)N1CCC=CC1 | C13H19N5O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-methoxyethyl 5-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-pyrimidine-7-carbamate | N1(CCC=CC1)C1=NC=2N(C(=C1)NC(=O)OCCOC)OC(N2)=O | C14H17N5O5
